US07151109B2
Preparation of ethyl 7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrazolo[1,5-a]pyridine-3-carboxylate
A solution of crude 1-amino-2-(2-chloro-4-methoxyphenyl)-3-methylpyridinium 2,4,6-trimethylbenzenesulfonate (2.63 g, 5.9 mmol) in DMF (15 mL) was treated with K2CO3 (4.05 g, 29.3 mmol). A solution of ethyl but-2-ynoate (0.77 g, 6.9 mmol) in DMF (2 mL) was added and the reaction was stirred at ambient temperature for 16 hours then quenched with water and filtered to give a waxy yellow solid which was dissolved in CH2Cl2. The solution was washed with H2O, dried over MgSO4, and filtered. The filtrate was concentrated in vacuo to give a yellow oil (1.02 g). The original aqueous filtrate from the reaction was concentrated in vacuo to remove DMF and partitioned between CH2Cl2 and water. The aqueous layer was extracted with CH2Cl2 and the combined organic layers was dried over MgSO4, concentrated in vacuo, combined with the yellow oil and subjected to column chromatography (30% ethyl acetate/heptane) to give 0.89 g (42%) of a yellow oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 8.09 (d, J=9.0 Hz, 1H), 7.38 (d, J=9.0 Hz, 1H), 7.28 (d, J=8.5 Hz, 1H), 7.15 (d, J=2.5 Hz, 1H), 7.04 (dd, J=8.5, 2.5 Hz, 1H), 4.42 (q, J=7.1 Hz, 2H), 3.92 (s, 3H), 2.63 (s, 3H), 2.17 (s, 3H), 1.46 (t, J=7.1 Hz, 3H); MS m/z 359.39 (M++H).

reactant | 1-amino-2-(2-chloro-4-methoxyphenyl)-3-methylpyridinium 2,4,6-trimethylbenzenesulfonate | 5.9 mmol, 2.63 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=C(C(=CC=C1)C)C1=C(C=C(C=C1)OC)Cl
reactant | K2CO3 | 29.3 mmol, 4.05 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl but-2-ynoate | 6.9 mmol, 0.77 g | C(C#CC)(=O)OCC | C6H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | ethyl 7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrazolo[1,5-a]pyridine-3-carboxylate | 1.02 g | ClC1=C(C=CC(=C1)OC)C1=C(C=CC=2N1N=C(C2C(=O)OCC)C)C | C19H19ClN2O3
